US04258187
A stirred mixture of 6.34 g (0.02 mole) of 1-(2-benzoyl-4-chlorophenyl)-3-isopropylurea and 4.17 g (0.06 mole) of hydroxylamine hydrochloride in 100 ml of ethanol was refluxed for 48 hr, and then cooled. The suspended crystals were collected on a filter, washed with alcohol, and then dried in air to give 4.60 g (84%) of 6-chloro-4-phenyl-(2(1H)-quinazolinone 3-oxide as yellow crystals, mp 267°-269° (dec.).

reactant | 1-(2-benzoyl-4-chlorophenyl)-3-isopropylurea | 0.02 mole, 6.34 g | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NC(=O)NC(C)C | C17H17ClN2O2
reactant | hydroxylamine hydrochloride | 0.06 mole, 4.17 g | Cl.NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2(1H)-quinazolinone 3-oxide | N1C([N+](=CC2=CC=CC=C12)[O-])=O | C8H6N2O2
